US08304419B2
Step E: 5-(acetylamino)-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-benzimidazole-2-carboxamide
HATU (0.092 g, 0.241 mmol) was added to a solution of 5-(acetylamino)-1H-benzimidazole-2-carboxylic acid (0.035 g, 0.161 mmol), 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol), and DIPEA (0.031 g, 0.241 mmol) in DMF (1 mL). After stirring at RT overnight, the reaction mixture was diluted with ethyl acetate and water. The organic layer was washed with water, dried over sodium sulfate and concentrated. The crude product was purified by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to give the title compound (0.007 g, 8.5%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 10.03 (s, 1H), 9.48 (s, 1H), 8.11 (m, 1H), 7.74-7.90 (m, 1H), 7.43-7.67 (m, 4H), 7.35-7.44 (m, 1H), 7.26-7.34 (m, 1H), 4.55 (s, 2H), 2.05 (s, 3H). MS: m/z 512 (M+1).

reactant | HATU | 0.241 mmol, 0.092 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(acetylamino)-1H-benzimidazole-2-carboxylic acid | 0.161 mmol, 0.035 g | C(C)(=O)NC1=CC2=C(NC(=N2)C(=O)O)C=C1 | C10H9N3O3
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.241 mmol, 0.031 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-(acetylamino)-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-benzimidazole-2-carboxamide | 0.007 g, 8.5% | C(C)(=O)NC1=CC2=C(NC(=N2)C(=O)NCC2=C(C(=C(C=C2)Cl)OC2=CC(=CC(=C2)C#N)Cl)F)C=C1 | C24H16Cl2FN5O3
